US08431575B2
To a stirred solution of benzyl 4-oxopiperidine-1-carboxylate (4.0 g, 17.2 mmol) in DMF (20 mL) was added TEA (9.0 mL) and TMSCl (4.0 mL, 32 mmol). The mixture was stirred overnight at 80° C., cooled, diluted with hexanes and washed with water. The organics were dried over sodium sulfate, filtered, concentrated, and purified by column chromatography using 10% EtOAc in hexanes to give 4-trimethylsilanyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid benzyl ester (5 g).

reactant | benzyl 4-oxopiperidine-1-carboxylate | 17.2 mmol, 4.0 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | TMSCl | 32 mmol, 4.0 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-trimethylsilanyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid benzyl ester | 5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)O[Si](C)(C)C | C16H23NO3Si
